US07060827B2
To a solution of 3-chlorobenzohydrazide (1 equivalent) and pyridine (2 equivalents) in CH2Cl2 at 0° C. was added a CH2Cl2 solution of 3-nitrobenzoyl chloride (1 equivalents) and stirred at 0° C. for 1 h and then at room temperature for overnight. The resulting solution was concentrated and diluted with water, basified with NaHCO3, the solid was filtered, washed with water, dried and analyzed to obtain N′1-(3-chlorobenzoyl)-3-nitrobenzene-1-carbohydrazide. 1H NMR (DMSO-d6): δ 10.99 (s, 1H), 10.79 (s, 1H), 8.73 (bs, 1H), 8.43 (bdd, 1H, J=1.2 and 8.1 Hz), 8.33 (bdd, 1J, J=8.4 Hz), 7.95 (s, 1H), 7.87 (m, 2H), 7.67 (bdd, 1H, J=1.2 and 8.1 Hz), 7.57 (t, 1H, J=7.8 Hz); LCMS: purity: 85%; MS (m/e): 320 (MH+).

reactant | 3-chlorobenzohydrazide | 1 equivalent | ClC=1C=C(C(=O)NN)C=CC1 | C7H7ClN2O
reactant | pyridine | 2 equivalents | N1=CC=CC=C1 | C5H5N
reactant | 3-nitrobenzoyl chloride | 1 equivalents | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N′1-(3-chlorobenzoyl)-3-nitrobenzene-1-carbohydrazide | ClC=1C=C(C(=O)NNC(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=CC1 | C14H10ClN3O4
